US06716861B2
tert-butyl (3R)-3-(3-{[(aminocarbonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate
A solution of tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (310 mg, 0.88 mmol) in MeCN (10 ml) was treated with N,N-disuccinimidyl carbonate (271 mg, 1.06 mmol) and stirred at room temperature, under a nitrogen atmosphere for 4.5 hours. NH3 (0.5M in dioxan) was added forming a white precipitate. The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was filtered and the solvent removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of DCM:MeOH (100:0) gradually changing to (95:5) to afford the title compound as a colourless oil (253 mg, 73%).

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.88 mmol, 310 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | N,N-disuccinimidyl carbonate | 1.06 mmol, 271 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | NH3 | 0.5M | N | H3N
solvent | MeCN | 10 ml | CC#N | C2H3N
product | tert-butyl (3R)-3-(3-{[(aminocarbonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | 253 mg, 73% | NC(=O)NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C20H34N4O4
